Name:  ___        Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I don't know why I'm here"
 
Major Surgical or Invasive Procedure:
None.

 
History of Present Illness:
Ms. ___ is a ___ student 
with self-reported psychiatric history of depression and 
anxiety, brought in by campus police after ___ suicidal 
statements to friends.
.
Patient states she entered into psychiatric care in ___, due 
to "not feeling good." Denies changes in sleep, school 
performance or attendance. Denies triggers at that time. Last 
increased to fluoxetine 60mg po qday 6 weeks ago with good 
medication adherence. Stopped seeing her therapist last month 
because she felt that she was "complaining too much" and not 
benefitting from
positive affirmations. 
.
Patient denies history of friendships since being home-schooled 
at age ___. However, later speaks about having a male college 
friend with whom she can watch movies and go to the gym with; 
this relationship recently changed from platonic. She also speak 
about friends with whom she has wine nights. Recent break-up in 
___, contacted her ex this week. 
.
She cannot recall what statements she made to whom which would 
have prompted anyone to call EMS on her for a safety check. 
Patient does endorse feelings of not wanting to wake up or being 
better off dead; denies plan or intent. In contrast to ___ 
documentation, patient denies not allowing collateral contacts; 
states she was never asked, and says that her mother has already 
been contacted by psychiatry team. Notably, patient also denies 
any drug use to this author, but endorses snorting cocaine and 
using marijuana, mushrooms, and LSD to nursing. 
.
Denies homicidal ideation and auditory or visual 
hallucinations("I'm not schizophrenic."). 
.
ED Course: Uneventful. Remained in good behavioral control. No 
chemical or mechanical restraints. No security interventions. No 
medications.
.
Per ___'s ___ initial ED consult note: 
___ female ___ student with history of depression and anxiety 
brought in by campus police after they were notified that she 
was ___ suicidal statements to a friend or friends.
.
Patient was evasive historian requiring persistent questioning 
to obtain a complete timeline. Asked what happened today, she 
reports someone told campus police that she was suicidal and she 
was brought in. She says "I'm fine" and expresses that author is 
wasting his time. She says that even thought she ___ multiple 
people that she was suicidal, she was not going to kill herself- 
"I'm too much of a coward to actually do anything." Asked what 
she expected would happen, says she hoped they would support 
her. This included her ex-boyfriend who she had a difficulty 
breakup with in ___ and still loves, and who visited her in 
hospital earlier tonight. During further discussion she endorses 
that she was hoping for attention, adding that she was 
"childish."
.
Asked how things have been lately, says "shitty." She then says 
it has been "shitty" for past ___ years, during which she has felt 
lonely, socially awkward and incompetent. She endorses low self 
esteem and feelings of worthlessness. She has had suicidal 
fantasies without specific plan for ___ years but says "I'm not 
going to kill myself because I'm a coward." She says that she 
does not have any close friends, adding "it's my fault." When 
asked about friends who she ___, says they are not very close 
except for 1 ___, who he thinks is only her friend because he 
wants to have sex with her. She endorses having anxiety when 
socializing, but also said that is "my fault." Her depression 
and anxiety are also her fault, for unclear reasons.
.
Although she feels pessimistic about her life in general, she 
has nonetheless maintained interest in school, in which she 
excels. She also maintains several extracurricular activities 
which she enjoys.
.
She sees a psychiatrist ___ (___?) at ___ in ___ 
___ and takes Prozac, which she says used to help- "the world 
lit up it was incredible"- but has not been helpful for many 
months despite increasing doses. She had a therapist ___ 
___ who she described as supportive but not at all 
beneficial- "I just kept bitching over and over and no one wants 
to here that"- so she stopped seeing the therapist 1 month ago. 
She has not sought out a new antidepressant, therapist, or 
treatment modality. She does not generally talk to anyone about 
her mental health, including her own family. 
.
On ROS endorses depressed mood, fatigue, chronic SI, and social 
anxiety. Denies change in interest/motivation, appetite, 
concentration, memory impairment, hallucinations, manic 
symptoms, panic attacks, or trauma/PTSD symptoms.
.
COLLATERAL:
Patient refuses to provide permission for provider to contact 
collateral."
.
COLLATERAL: Referral from ___, ___ "Clinical 
Summary: ___ is a ___ yo ___ female senior at ___ who was seen briefly by one of our clinicians (___. 
___) in the ___ in ___. She presented 
following an increase in anxiety and depression with passive SI, 
which was precipitated by a 3+ yr hx of mood sxs related to a 
family disruption. She returned to our counseling center 
("Behavioral Medicine") in ___ and received referrals for 
psychiatrists in the community. As noted per that contact, ___ 
had been seeing a community therapist (___) since 
___. Hx of passive SI, without intent or plan, said "could not 
ever do that" as of ___. Hx of thoughts of self-injury, no 
noted self injurious behavior. M ___ and most recent contact 
both noted that she was help seeking."
.
COLLATERAL: Telephone call to ___, MD on ___ from 
Dr. ___ @ ___ in ___ (outpatient 
psychiatrist) ___: 
"Has worked with patient since ___, notable for periods of 
destabilization that always have revolved around relationships, 
dating, men. This week when seen reported being stressed about 
her ex boyfriend telling her that he is going to move on, as 
well as having slept with her male best friend with whom she had 
never had sexual relations with before.
.
Patient grew up very isolated and was home schooled. Working 
diagnoses so far have included major depressive disorder and 
borderline personality disorder/traits.
.
Fluoxetine was increased from 40 to 60mg on ___.
.
No past SAs, or other safety concern."
.
REVIEW OF SYSTEMS:
- Psychiatric ROS per HPI.
- 10-point general medical ROS reviewed and negative.
 
Past Medical History:
PAST PSYCHIATRIC HISTORY:
- Prior diagnoses: anxiety, depression
- Hospitalizations: denies
- Partial hospitalizations: denies
- Psychiatrist:  ___ NP at ___ psychiatry 
- Therapist: ___
- Medication trials: fluoxetine
- ___ trials: none reported
- Suicide attempts: denies
- Self-injurious behavior: denies
- Harm to others: denies
- Trauma: none reported
- Access to weapons: denies
.
PAST MEDICAL HISTORY:
Denies
 .
MEDICATIONS:
fluoxetine 60mg po qday
 .
ALLERGIES: 
Allergies  (Last Verified ___ by ___:
Patient recorded as having no known allergies to drugs           

.
SUBSTANCE USE HISTORY: Inconsistent with report given to 
nursing.
- Alcohol: 3 drinks in one sitting every ___ months / Denies
history of blackouts, alcohol withdrawal, DTs, seizures.
- Tobacco: denies
- Marijuana: denies
- Heroin: denies
- Pills: denies
- Cocaine: denies
- Other Drugs: denies
.
FORENSIC HISTORY:
- Arrests: Denies
- Convictions and jail terms: Denies
- Current status (pending charges, probation, parole): N/A
 
Social History:
___
Family History:
FAMILY PSYCHIATRIC HISTORY:
- Psychiatric Diagnoses: Mother - anxiety.
- Suicide Attempts/Completed Suicides: denies
- Substance Use Disorders: denies
 
Physical Exam:
===EXAM ON ADMISSION===
VS: T: 98.1, HR: 96, BP: 107/70, RR: 16, SpO2: 96% on RA
.
Wt: 64.59kg
Ht: 68 inch
.
Physical Exam: 
GEN: Young Caucasian female, no acute distress
HEENT:  Normocephalic, atraumatic. Moist mucous membranes. 
Anicteric sclera. 
CV:  Regular rate, normal S1, S2. No murmurs/rubs/gallops. 2+ 
radial pulses.
RESP: Non-labored. Clear to auscultation bilaterally. No 
wheezes/rales/rhonchi.  
ABD: Soft, non-tender, non-distended. 
EXT: Warm and well perfused. No gross deformity. 
SKIN: No rashes or lesions noted.
 
Neurological Exam: 
- Cranial nerves: 
  II: PERRLA 7mm to 5mm, brisk bilaterally
  III, IV, VI: extraocular movements intact. couple of beats of 
nystagmus horizontally with leftward gaze; not reproducible.
  V: facial sensation to touch equal in all 3 divisions 
bilaterally
  VII: face symmetric  on eye closure and smile
  VIII: hearing normal bilaterally to rubbing fingers
  IX, X: palate elevates symmetrically
  XI: head turning and shoulder shrug intact
  XII: tongue midline. 
- Reflexes: 1+ and symmetrical biceps, brachioradialis, 
patellar. 2+ Achilles.
- Motor:  ___ biceps, triceps, iliopsoas, quadriceps. Normal 
bulk.  
- Gait and station:  Gait deferred. Normal coordination of 
finger to nose and heel to shin testing. 
- Abnormal movements:  No tremor or abnormal movements 
appreciated.
 
Cognition: Per initial ED consult on ___ by ___ 
___: 
 "Wakefulness/alertness: found sleeping, easily arousable to 
verbal stimuli
 *Attention: able to say DOWB with ease
 *Orientation: person, place, time, situation
 Executive function: not tested
 *Memory: ___ registration, ___ recall
 *Fund of knowledge: seems consistent with education
 Calculations: $1.75 = "7" quarters
 Abstraction: interprets grass/greener proverb appropriately
 Visuospatial: not tested
 *Speech: difficult to understand as she mumbles quickly in 
short bursts, requiring frequent requests for clarification
 *Language: native ___, no paraphasic errors noted"

Mental Status:
- Appearance: young Caucasian woman appearing stated age, 
wearing hospital gown, in no apparent distress
- Behavior: Lying down on exam table, decreased eye contact. No 
psychomotor agitation or retardation
- Attitude: Evasive, inconsistent, generally pleasant with 
intermittent irritability, defensiveness.
- Mood: "fine"
- Affect: Mood-congruent, full range, appropriate to situation
- Thought process: Linear, coherent, goal-oriented, no loose 
associations
- Thought Content:
  Safety: Denies SI/HI
  Delusions: No evidence of paranoia, etc. 
  Obsessions/Compulsions: No evidence based on current encounter
  Hallucinations: Denies AVH, not appearing to be attending to 
internal stimuli
  Insight / Judgment: Limited / Poor
.
.
===EXAM AT DISCHARGE===
Vital signs:
___ 0804 Temp: 97.5 PO BP: 102/69 HR: 99 RR: 16 O2 sat: 97%
.
Mental Status:
- Appearance: young Caucasian woman appearing stated age, 
wearing own clothes, in no acute distress
- Behavior: sitting in chair, slightly anxious, playing with her 
hands and with her name ___
- ___: cooperative, engaged, friendly
- Mood: "alright"
- Affect: Mood-congruent, full range, appropriate to situation
- Thought process: Linear, coherent, goal-oriented, no loose 
associations
- Thought Content:  
  Safety: Denies suicidal or homicidal ideation, intent or plan.
  Delusions: No evidence of paranoia or other delusions 
  Obsessions/Compulsions:  No evidence during this encounter
  Hallucinations: Denies AVH, not appearing to be attending to 
internal stimuli
  Insight / Judgment: Fair / Fair
 
Pertinent Results:
___ 11:46PM   WBC-10.3* RBC-4.72 HGB-14.3 HCT-43.1 MCV-91 
MCH-30.3 MCHC-33.2 RDW-12.1 RDWSD-40.4
___ 11:46PM   NEUTS-62.8 ___ MONOS-8.1 EOS-1.7 
BASOS-0.5 IM ___ AbsNeut-6.47* AbsLymp-2.74 AbsMono-0.83* 
AbsEos-0.17 AbsBaso-0.05
___ 11:46PM   TSH-3.2
___ 11:46PM   HIV Ab-NEG
___ 11:46PM   TRIGLYCER-58 HDL CHOL-56 CHOL/HDL-2.3 
LDL(CALC)-62
___ 11:46PM   CHOLEST-130
___ 11:46PM   GLUCOSE-107* UREA N-14 CREAT-0.7 SODIUM-141 
POTASSIUM-4.3 CHLORIDE-102 TOTAL CO2-28 ANION GAP-11
___ 01:23PM   %HbA1c-5.0 eAG-97
___ 11:46PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
tricyclic-NEG
___ 09:53AM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 09:53AM URINE  UCG-NEGATIVE
___ 09:53AM URINE  COLOR-Yellow APPEAR-Cloudy* SP 
___
___ 09:53AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-100* 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-2* PH-8.5* 
LEUK-TR*
___ 09:53AM URINE  RBC-4* WBC-0 BACTERIA-FEW* YEAST-NONE 
EPI-6
___ 09:53AM URINE  AMORPH-MANY*
 
Brief Hospital Course:
Ms. ___ is a ___ student 
with self-reported psychiatric history of depression and 
anxiety, brought in by campus police after ___ suicidal 
statements to friends. 
.
1. LEGAL & SAFETY:  
On admission, Ms. ___ signed a conditional voluntary 
agreement (Section 10 & 11) and remained on that level 
throughout the hospitalization.  She was placed on 15 minute 
checks status (least restrictive) on admission and remained on 
that level of observation throughout while being unit 
restricted.  The patient did not require behavioral or chemical 
restraints during this hospitalization.

2. PSYCHIATRIC:
#) Unspecified anxiety disorder
On presentation to the ED on ___, Ms. ___ 
endorsed ___ multiple friends that she was suicidal, 
reportedly in order to gain attention but not anticipating that 
anyone would call ___. She described chronic passive SI as 
chronic (for years), and occurring in the setting of feeling 
worthless due to perceived social deficiencies and social 
anxiety, despite achievements in other domains (especially 
academic achievement). She was markedly pessimistic about her 
ability to recover and about the potential for treatment to be 
beneficial. Mental status exam notable for fair grooming and 
hygeine, evasiveness and poor eye contact, rapid mumbled speech 
without pressure, inappropriate affect to content including 
artificially cheerful affect, irritability, and grimacing, vague 
but generally linear thought process, and thought content with 
frequent themes of self-hatred and pessimism.
.
During a more extensive conversation with the inpatient 
psychiatry team, patient reported "feeling disconnected" in the 
week prior to being admitted and was "feeling hopeless" on the 
night of presentation to the ED due to significant difficulties 
with interpersonal relationships. Patient described 
long-standing pattern of difficulties maintaining friendships 
with female peers due to low self-esteem focused around not 
thinking that she has anything to offer, that she is 
uninteresting and "awkward", and that she does not have many 
friends (which, in her opinion, confirms that she is not the 
type of person that peers her age would want to spend time 
with). She also expressed concerns around relying on others and 
being vulnerable. She described these thoughts as ego-syntonic, 
yet intrusive and very distressing, causing her significant 
anxiety and low mood. Ms. ___ denied changes in 
appetite, or her ability to function in school. She did enrose 
difficulty falling asleep due to rumination. Her stated goal for 
the hospitalization was to improve her intrusive negative 
thoughts.
.
Patient's presentation was most consistent with an unsepcified 
anxiety disorder. The obsessive nature of her thoughts around 
interpersonal relationships also raised concern for obsessive 
compulsive disorder.
.
Patient was continued on fluoxetine 60mg PO daily. She was 
started on aripiprazole 2mg po qHS and titrated to 5mg PO qHS 
for augmentation of the SSRI effect and for targeting intrusive 
thoughts and insomnia due to rumination.
.
By the time of discharge, Ms. ___ endorsed mild 
improvement in her negative thinking along with improvement in 
her interaction with her friend, ___, who visited her on the 
unit. She was future-oriented, speaking fondly about her college 
studies and her love of dancing ___ and about the writing 
group that she leads. She denied thoughts, intent, or plan of 
harming herself or others and she expressed interest in 
continuing to work with her outpatient providers. On mental 
status exam, patient was engaged and friendly, slightly anxious 
appearing, with euthymic, full-range, appropriate affect, and 
without any evidence of mania or psychosis.
.
3. SUBSTANCE USE DISORDERS:
Ms. ___ does not have any substance use disorders, 
and  therefore did not require any counseling or treatment in 
this regard.
.
4. MEDICAL
#) No acute or chronic medical illnesses.
.
5. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
Ms. ___ was encouraged to participate in the 
various groups and milieu therapy opportunities offered by the 
unit.  The occupational therapy and social work groups focus on 
teaching patients various coping skills. Ms. ___ 
attended and participated in some of the groups and described 
finding it helpful to engage with peers and to hear from others 
who are struggling with similar psychosocial stressors as her. 
.
#) COLLATERAL CONTACTS & FAMILY INVOLVEMENT:
Ms. ___ gave verbal and written permission for the 
team to contact her outpatient psychiatric provider, ___ 
___, NP at ___ and her outpatient therapist, 
___. They were provided with a summary of the 
patient's presentation to the ___ ED/Deac 4 and an update on 
her progress since admission. They provided collateral 
information and/or treatment recommendations.
.
Ms. ___ gave verbal permission for the team to 
contact her  mother, ___,  who was given an update 
on patient’s progress while admitted and  her discharge plan. 
Additionally, the patient's mother came in for a family meeting 
with the patient and the team on the morning of discharge. The 
psychiatry team discussed ___ patient's presentation and the 
recommended treatment plan, and answered patient's and mother's 
questions. Per mother, pt's presentation on the discharge date 
(___) was close to her baseline. Per mother, pt "looks 
great". We discussed w pt and with her mother impression and tx 
recommendations.
Also, provided pt and her mother with psychoeducation. We 
discussed supports including support groups through ___. Pt and 
mother had opportunity to ask questions (answered).
.
#) INTERVENTIONS
- Medications: Patient was continued on fluoxetine 60mg PO 
daily. She was started on aripiprazole 5mg PO qHS.
- Psychotherapeutic Interventions: Individual, group, and milieu 
therapy.
- Coordination of aftercare: follow-up appointments were 
scheduled with outpatient therapist and psychiatric prescriber. 
Re-entry appointment was scheduled with ___ 
___ Health ___.
.
INFORMED CONSENT: ___
The team discussed the indications for, intended benefits of,  
and possible side effects and risks of starting this medication, 
 and risks and benefits of possible alternatives, including not  
taking the medication, with this patient. We discussed the 
patient's right to decide whether to take this medication as  
well as the importance of the patient's actively participating  
in the treatment and discussing any questions about medications 
with the treatment team. The patient appeared able to understand 
and consented to begin the medication.

RISK ASSESSMENT& PROGNOSIS
On presentation, Ms. ___ was evaluated and felt to 
be at increased risk of harm to self due to suicidal ideation 
and inconsistent reports from the patient about hte events 
leading to her presentation to the ED.
.
Ms. ___ static risk factors noted at that time 
include chronic mental illness, history of substance abuse, 
family history of mental illness, Caucasian ethnicity, 
adolescent age, single relationship status, limited social 
supports.
.
The modifiable risk factors identified were as such: suicidal 
ideation without plan, inconsistent engagement with outpatient 
treatment, social withdrawal, hopelessness, severe anxiety, 
insomnia, decreased self-esteem, thought constriction, psychic 
pain/turmoil, recent personal loss, limited coping skills. These 
modifiable risk factors were addressed with acute stabilization 
in a safe environment on a locked inpatient unit, 
psychopharmacologic adjustments, psychotherapeutic interventions 
(OT groups, SW groups, individual therapy meetings with  
psychiatrists, and presence on a social milieu environment.
.  
Ms. ___ is being discharged with several protective 
factors, including female gender, sense of responsibility to 
family, future-oriented viewpoint, lack of suicidal ideation, 
medication compliance, no prior suicide attempts/self-injurious 
behavior, spirituality, no active substance use, no access to 
lethal weapons, reality-testing ability. Overall, based on the 
totality of our assessment at  this time, Ms. ___ 
does not manifest symptoms of acute psychiatric illness; she 
does not exhibit symptoms consistent with decompensated 
affective or psychotic illness. She is not at an acutely 
elevated risk of harm to herself nor a danger to others. She no 
longer requires ongoing inpatient hospitalization. 
.
Furthermore, Ms. ___ possesses the preserved 
capacity to  engage in a meaningful discussion about safety 
planning in the  event that symptoms of depression worsen or 
suicidal or  homicidal ideation arise in the future (e.g. 
patient reported that she would go to the nearest emergency room 
or call ___.
.
Our Prognosis of this patient is fair. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. FLUoxetine 60 mg PO DAILY 

 
Discharge Medications:
1.  ARIPiprazole 5 mg PO QHS 
RX *aripiprazole [Abilify] 5 mg one tablet(s) by mouth at 
bedtime Disp #*14 Tablet Refills:*0 
2.  FLUoxetine 60 mg PO DAILY 
RX *fluoxetine 20 mg three capsule(s) by mouth daily Disp #*42 
Capsule Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Unspecified anxiety disorder 
r/o OCD

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
Ms. ___ was alert, friendly, engaged in the conversation. No 
sx's of psychosis. She denied S/H/I. Shared about positive 
plans. Discussed appropriate steps in case of emergency.
Family meeting with patients mother was held (Ms. ___ 
___. Discussed patients presentation, recommended 
treatment plan. Answered patient's and mother's questions.

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___